US04072696
1.2 G. of 2-amino-4-(4-chlorophenoxy)-1-nitrobenzene in 3ml. concentrated hydrochloric acid is treated with a solution of 6 g. stannous chloride in 3 ml. concentrated hydrochloric acid. The mixture is heated briefly (about ten minutes) on a steam bath, then cooled and treated with potassium bicarbonate and chloroform. The chloroform layer is removed from the filtered mixture, dried and evaporated. 1,2-diamino-4-(4-chlorophenoxy)benzene is isolated as a gum. 1G. of 1,2-diamino-4-(4-chlorophenoxy)benzene in 20 ml. acetone is treated overnight at room temperature with 2.5 g. methoxy carbonyl isothiocyanate. The mixture is concentrated under vacuum and the residue triturated with methanol. Recrystallization from methanol gives pure 1,2-bis-(3-methoxycarbonyl-2-thioureido)-4-(4-chlorophenoxy)benzene.

reactant | 1,2-diamino-4-(4-chlorophenoxy)benzene | NC1=C(C=C(C=C1)OC1=CC=C(C=C1)Cl)N | C12H11ClN2O
reactant | methoxy carbonyl isothiocyanate | COC(=O)N=C=S | C3H3NO2S
solvent | acetone | CC(=O)C | C3H6O
product | 1,2-bis-(3-methoxycarbonyl-2-thioureido)-4-(4-chlorophenoxy)benzene | COC(=O)NC(NC1=C(C=C(C=C1)OC1=CC=C(C=C1)Cl)NC(=S)NC(=O)OC)=S | C18H17ClN4O5S2
